US07973041B2
(1S,2S,5R)-N-hydroxy-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(pyridin-3-ylmethoxy)cyclohexanecarboxamide
1.00 M of Potassium tert-butoxide in tetrahydrofuran (0.212 mL) was added to a mixture of methyl (1S ,2S,5R)-5-hydroxy-2-[(4-phenylpiperazin-1-yl)carbonyl]cyclohexanecarboxylate (36.8 mg, 0.000106 mol) and 3-chloromethylpyridine hydrochloride (17.4 mg, 0.106 mmol) in tetrahydrofuran (1.0 mL, 0.012 mol) at 0 Celsius. The mixture was stirred at room temperature for 1 hr then purified by HPLC. 1.5 M of hydroxyamine solution (0.7 ml) was added to a solution of methyl (1S,2S,5R)-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(pyridin-3-ylmethoxy)cyclohexanecarboxylate (0.075 mmol, 0.000075 mol) made above in methanol (0.5 mL, 0.01 mol). It was stirred at rt for 2 hrs then purified by Prep-HPLC.

reactant | Potassium tert-butoxide | 1.00 M | CC(C)([O-])C.[K+]
reactant | methyl (1S ,2S,5R)-5-hydroxy-2-[(4-phenylpiperazin-1-yl)carbonyl]cyclohexanecarboxylate | 0.000106 mol, 36.8 mg | O[C@@H]1CC[C@@H]([C@H](C1)C(=O)OC)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C19H26N2O4
reactant | 3-chloromethylpyridine hydrochloride | 0.106 mmol, 17.4 mg | Cl.ClCC=1C=NC=CC1
reactant | hydroxyamine | 1.5 M, 0.7 ml | ON | H3NO
reactant | methyl (1S,2S,5R)-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(pyridin-3-ylmethoxy)cyclohexanecarboxylate | 0.075 mmol | C1(=CC=CC=C1)N1CCN(CC1)C(=O)[C@@H]1[C@H](C[C@@H](CC1)OCC=1C=NC=CC1)C(=O)OC | C25H31N3O4
reactant | methanol | 0.01 mol, 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 0.212 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.012 mol, 1.0 mL | O1CCCC1 | C4H8O
product | (1S,2S,5R)-N-hydroxy-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(pyridin-3-ylmethoxy)cyclohexanecarboxamide | ONC(=O)[C@@H]1[C@H](CC[C@H](C1)OCC=1C=NC=CC1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C24H30N4O4
